US07285518B2
Step A—Preparation of N-quinolin-8-ylquinolin-6-amine
To a flask equipped with a magnetic stirrer, reflux condensor, and nitrogen inlet was added 8-aminoquinoline (4.2 grams, 29.0 mmoles), 6-bromoquinoline (6.0 grams, 29.0 mmoles), tris(dibenzylideneacetone)dipalladium (0) (0.4 grams, 0.48 mmoles), rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl (0.6 grams, 0.60 mmoles), sodium tert-butoxide (4.7 grams, 49.0 mmoles) and anhydrous toluene (80 mL). The contents of the flask were refluxed for three days; cooled to room temperature; and filtered through a pad of silica gel. The silica gel pad was then eluted with dichloromethane (60 mL) and ethyl acetate (60 mL). The combined organic layers were concentrated in vacuo to yield a yellow solid. The solid was chromatographed on silica gel, eluting with a hexane/ethyl acetate gradient to afford 4.4 grams of the desired product as a yellow solid. 1H NMR (CDCl3) δ 8.8 (d, 2H), 8.6 (bs, 1H), 8.0-8.2 (m, 3H), 7.2-7.8 (m, 7H).

reactant | 8-aminoquinoline | 29.0 mmoles, 4.2 grams | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 6-bromoquinoline | 29.0 mmoles, 6.0 grams | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
reactant | sodium tert-butoxide | 49.0 mmoles, 4.7 grams | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.48 mmoles, 0.4 grams | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 0.60 mmoles, 0.6 grams | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | N-quinolin-8-ylquinolin-6-amine | 4.4 grams | N1=CC=CC2=CC=CC(=C12)NC=1C=C2C=CC=NC2=CC1 | C18H13N3
